US06054587
A solution of phthalide-3-acetic acid (1 mmol) in THF was treated with borane dimethylsulfide (1.5 mmol) at 0° C. for 1 h, and 25° C. for 24 h. Extraction and chromatography gave 2-(3-phthalidyl)ethanol as a light yellow oil. TLC: Rf=0.25, 50 % EtOAc-hexane.

reactant | phthalide-3-acetic acid | 1 mmol | C1(=O)OC(C2=CC=CC=C12)CC(=O)O | C10H8O4
reactant | borane dimethylsulfide | 1.5 mmol | CSC.B
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3-phthalidyl)ethanol | C1(=O)OC(C2=CC=CC=C12)CCO | C10H10O3
